US07157447B2
N-(4-Fluoro-2-hydroxybenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid, (1.50 g, 4.54 mmol) and HATU (2.07 g, 5.45 mmol) in anhydrous dimethylformamide was stirred for 20 minutes under a nitrogen atmosphere at room temperature. To the solution was added intermediate 135, 2-hydroxy-4-fluoro-benzylamine hydrochloride, (1.05 g, 5.9 mmol) followed by DMAP (1.39 g, 11.4 mmol), and the reaction mixture stirred at 60° C. for 90 minutes. The solvent was removed in vacuo and the crude residue purified by flash column chromatography (SiO2), eluting with 40%–60% ethyl acetate in hexanes to give the title compound (1.31 g, 64% yield) as a solid. 1H NMR (500 MHz, CDCl3) δ ppm: 9.69 (1H, br s), 8.18 (1H, t, J=6.3 Hz), 7.44 (2H, dd, J=6.6, 2.6 Hz), 7.30–7.35 (3H, m), 7.00 (1H, dd, J=8.2, 6.7 Hz), 6.68 (1H, dd, J=10.4, 2.4 Hz), 6.54 (1H, dt, J=8.2, 2.4 Hz), 5.29 (2H, s), 4.36 (2H, d, J=6.7 Hz), 3.97–4.05 (4H, m), 1.61 (6H, s).

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | 4.54 mmol, 1.50 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | HATU | 5.45 mmol, 2.07 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-hydroxy-4-fluoro-benzylamine hydrochloride | 5.9 mmol, 1.05 g | Cl.OC1=C(CN)C=CC(=C1)F
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | DMAP | 11.4 mmol, 1.39 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-Fluoro-2-hydroxybenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 1.31 g, 64% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)O | C24H24FN3O5
